US08133897B2
To a solution of 4,6-Dimethyl-pyrimidin-2-ylamine (25 g, 200 mmol) in 400 mL of CH2Cl2 was added dropwise a solution of hydroxylamine-2,4,6-Trimethyl-benzenesulfonate (105 g, 488 mmol) in 300 mL of CH2Cl2 at 0° C., and the mixture was stirred at 0° C. for 1 hand filtered. The solid collected was washed with CH2Cl2 (100 mL) to give 1-Amino-4,6-dimethyl-1H-pyrimidin-2-ylidene-ammonium 2,4,6-Trimethyl-benzenesulfonate (40 g, yield: 62%).

reactant | 4,6-Dimethyl-pyrimidin-2-ylamine | 200 mmol, 25 g | CC1=NC(=NC(=C1)C)N | C6H9N3
reactant | hydroxylamine 2,4,6-Trimethyl-benzenesulfonate | 488 mmol, 105 g | NO.CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-]
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 1-Amino-4,6-dimethyl-1H-pyrimidin-2-ylidene-ammonium 2,4,6-Trimethyl-benzenesulfonate | 40 g, yield: 62% | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].NN1C(N=C(C=C1C)C)=[NH2+] | InChI=1S/C9H12O3S.C6H10N4/c1-6-4-7(2)9(8(3)5-6)13(10,11)12;1-4-3-5(2)10(8)6(7)9-4/h4-5H,1-3H3,(H,10,11,12);3,7H,8H2,1-2H3
